US09212187B2
Synthesis of (2-pyridin-3-yl-ethyl)-pyridin-4-ylmethyl-amine
4-Pyridine carbaldehyde(5.36 g) and 3-(2-aminoethyl)pyridine (6.5 ml) were added to 100 ml of methanol. The mixture was stirred at room temperature for 7 hours. The mixture was cooled to 0° C., and sodium borohydride(2.8 g) was added thereto. The mixture was further stirred at 0° C. for an hour. Water was added to the reaction mixture and methanol was distilled off under reduced pressure. The residue was subjected to extraction using dichloromethane. The organic layer was washed with saturated saline, dried with anhydrous sodium sulfate, and was condensed under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate: methanol=95:5→85:5). The purified product was condensed under reduced pressure to give the title compound(10.03 g) as a colorless oily matter.

reactant | 4-Pyridine carbaldehyde | 5.36 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 3-(2-aminoethyl)pyridine | 6.5 ml | NCCC=1C=NC=CC1 | C7H10N2
reactant | sodium borohydride | 2.8 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | (2-pyridin-3-yl-ethyl)-pyridin-4-ylmethyl-amine | 10.03 g | N1=CC(=CC=C1)CCNCC1=CC=NC=C1 | C13H15N3
